US07022707B2
A solution of 1.47 g (4.7 mmol) N-Fmoc-piperazine (obtained from N-Fmoc-piperazine hydrobromide by treatment with aqueous NaHCO3 and extraction with TBME, drying the organic layer over Na2SO4 and evaporation under reduced pressure at <30° C.) in 18 ml CH2Cl2 at 0° C. was added dropwise to a solution of 1.51 g (4.7 mmol) (RS)-carbonic acid 4-benzyloxy-benzyl ester 1-chloro-ethyl ester in 57 ml of CH2Cl2. The reaction is slightly exothermic and a colourless precipitate is formed. After 1 h at 0° C. the mixture was allowed to warm to rt and stirred for further 62 h. Then the reaction is quenched with 2.35 ml 4M K2CO3, filtered over a plug of Na2SO4 and evaporated. The crude product (2.67 g) was purified by flash-chromatography on silica gel with hexane/AcOEt 50:50 as eluent: 1.54 g (60%) RO-72-0160/000 as yellow solid. IR (Nujol): 1699 cm−1. 1H-NMR (CDCl3): 3.25–3.60 br, 8H; 4.23 t, J=6.4 Hz, 1H; 4.48 d, J=6.4 Hz, 2H; 5.06 s and 5.07 s, 4H; 6.97 d, J=8.4 Hz, 2H, 7.26–7.45, m 11H, 7.55 d, J=7.6 Hz, 2H and 7.76 d, J=7.6 Hz, 2H. MS (ISP): 566.4 (M+NH4)+; 571.4 (M+Na)+.

reactant | N-Fmoc-piperazine hydrobromide | Br.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CCNCC1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TBME | CC(C)(C)OC | C5H12O
product | N-Fmoc-piperazine | 4.7 mmol, 1.47 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CCNCC1 | C19H20N2O2
